US06388088B1
A mixture of zinc dust (650 mg, 10 mmol, Aldrich, −325 mesh) and dry tetrahydrofuran (2 mL) under argon was treated with 1,2-dibromoethane (187 mg, 1 mmol). The zinc suspension was then heated with a heat gun to ebullition, allowed to cool, and heated again. This process was repeated three times to make sure the zinc dust was activated. The activated zinc dust suspension was then treated with trimethylsilyl chloride (110 mg, 1 mmol), and the suspension was stirred for 15 min at 25° C. The reaction mixture was then treated dropwise with a solution of (E)-3-cyclohexyl-2-iodo-acrylic acid methyl ester (1.32 g, 4.5 mmol) in dry tetrahydrofuran (2 mL) over 5 min. After the addition, the reaction mixture was stirred for 1 h at 40-45° C. and then stirred overnight at 25° C. The reaction mixture was then diluted with dry tetrahydrofuran (4 mL), and the stirring was stopped to allow the excess zinc dust to settle down (˜2 h). In a separate reaction flask, bis(dibenzylideneacetone)palladium(0) (54 mg, 0.1 mmol) and triphenylphosphine (104 mg, 0.4 mmol) in dry tetrahydrofuran (8 mL) was stirred at 25° C. under argon for 10 min and then treated with 1-(2-chloro-4-iodo-phenyl)-5-trifluoromethyl-1H-tetrazole (1.12 g, 3 mmol) and the freshly prepared zinc compound in tetrahydrofuran. The resulting brick red solution was heated at 50° C. for 15 h. The reaction mixture was cooled to 25° C. and then poured into a saturated aqueous ammonium chloride solution (70 mL), and the organic compound was extracted into ethyl acetate (3×50 mL). The combined organic extracts were washed with a saturated aqueous sodium chloride solution (1×100 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40M, Silica, 6/1 hexanes/ethyl acetate) afforded the (E)-2-[3-chloro-4-(5-trifluoromethyl-tetrazol-1-yl)-phenyl]-3-cyclohexyl-acrylic acid methyl ester (908 mg, 73%) as an amorphous white solid: EI-HRMS m/e calcd for C18H18ClF3N4O2 (M+) 414.1070, found 414.1075.

reactant | 1,2-dibromoethane | 1 mmol, 187 mg | BrCCBr | C2H4Br2
reactant | trimethylsilyl chloride | 1 mmol, 110 mg | C[Si](C)(C)Cl | C3H9ClSi
reactant | (E)-3-cyclohexyl-2-iodo-acrylic acid methyl ester | 4.5 mmol, 1.32 g | COC(/C(=C\C1CCCCC1)/I)=O | C10H15IO2
reactant | triphenylphosphine | 0.4 mmol, 104 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-(2-chloro-4-iodo-phenyl)-5-trifluoromethyl-1H-tetrazole | 3 mmol, 1.12 g | ClC1=C(C=CC(=C1)I)N1N=NN=C1C(F)(F)F | C8H3ClF3IN4
reactant | ammonium chloride | 70 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
catalyst | zinc | 10 mmol, 650 mg | [Zn] | Zn
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.1 mmol, 54 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (E)-2-[3-chloro-4-(5-trifluoromethyl-tetrazol-1-yl)-phenyl]-3-cyclohexyl-acrylic acid methyl ester | 908 mg, 73% | COC(\C(=C\C1CCCCC1)\C1=CC(=C(C=C1)N1N=NN=C1C(F)(F)F)Cl)=O | C18H18ClF3N4O2
